US07667041B2
Synthesis of (E)-1-(3,4-difluorobenzyl)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]pyrrolidin-2-one
To a DMF (6.0 mL) solution of (E)-3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)pyrrolidin-2-one (100 mg), lithium bis(trimethylsilyl)amide (1M hexane solution, 0.53 mL) was added at 0° C., and the reaction solution was agitated for 30 minutes at 0° C. 3,4-difluorobenzylbromide (0.060 mL) was added to this solution at 0° C., and that reaction solution was agitated at room temperature for 1 hour. The reaction solution was added to iced water and ethyl acetate, and the organic layer was partitioned. The obtained organic layer was washed with a saturated salt solution, and it concentrated under reduced pressure after dried over anhydrous magnesium sulfate. The residue was purified by silica gel column chromatography (elution solvent:heptane-ethyl acetate system), and 80 mg of the title compound was obtained. The physical properties of the compound are as follows.

reactant | DMF | 6.0 mL | CN(C)C=O | C3H7NO
reactant | (E)-3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)pyrrolidin-2-one | 100 mg | COC=1C=C(\C=C/2\C(NCC2)=O)C=CC1N1C=NC(=C1)C | C16H17N3O2
reactant | lithium bis(trimethylsilyl)amide | 1M, 0.53 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3,4-difluorobenzylbromide | 0.060 mL | FC=1C=C(CBr)C=CC1F | C7H5BrF2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (E)-1-(3,4-difluorobenzyl)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]pyrrolidin-2-one | 80 mg | FC=1C=C(CN2C(/C(/CC2)=C/C2=CC(=C(C=C2)N2C=NC(=C2)C)OC)=O)C=CC1F | C23H21F2N3O2
